US09233981B1
Step 2. Synthesis of N-[(4aR,6R,8aS)-6-(4-cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C26)
N-[(4aR,8aS)-6-(4-Cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C25) (64 mg, 0.13 mmol, 1 equiv) was dissolved in 1,2-dichloroethane (2.0 mL) and cooled to 0° C. Triethylsilane (0.32 mL, 2.0 mmol, 15 equiv) and trifluoroacetic acid (0.5 mL) were added and reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was neutralized by addition of a saturated solution of sodium bicarbonate (10 mL) and extracted with ethyl acetate (3×20 mL). The organics were combined, dried over sodium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel (Gradient: 0% to 30% ethyl acetate in heptane) afforded the product as a white solid. Yield: 37 mg, 58%. LCMS m/z 490.3 [M+H+]. 1H NMR (400 mhz, CDCL3) δ 8.24 (d, J=7.0 Hz, 2H), 7.63-7.66 (m, 2H), 7.41-7.56 (m, 5H), 6.90-7.01 (m, 2H), 4.78 (dd, J=11.5, 2.3 Hz, 1H), 4.33 (dd, J=12.3, 1.6 Hz, 1H), 3.99 (d, J=12.3 Hz, 1H), 3.32-3.36 (m, 1H), 3.07 (dd, J=12.9, 4.1 Hz, 1H), 2.68 (dd, J=12.9, 2.7 Hz, 1H), 2.12-2.22 (m, 1H), 1.91-1.96 (m, 1H).

reactant | N-[(4aR,8aS)-6-(4-Cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 0.13 mmol, 64 mg, 1 equiv | C(#N)C1=CC=C(C=C1)C1=C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C27H19F2N3O2S
reactant | Triethylsilane | 2.0 mmol, 0.32 mL, 15 equiv | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
product | N-[(4aR,6R,8aS)-6-(4-cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | C(#N)C1=CC=C(C=C1)[C@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C27H21F2N3O2S
